Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, chest pain, cough 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with no significant past medical history who presents 
with one day of chest pain.  
 He stated that yesterday in the late evening he was cleaning 
his apartment with chlorine and started to feel some chest pain. 
It was sharp, non-radiating, substernal, unremitting. It is 
worse with sitting up and standing, but improves when he walks 
or is active. He felt unwell and had some chills, and thought 
that he may have a fever. He took Tylenol and had some 
improvement in the chest pain. He also took Delsym.  
 In the ED, initial vitals were: 100.3, HR 116 improving to the 
___, BP 130/80s, RR 18, 100% RA  
 - Exam notable for:  
 diaphoretic, somewhat uncomfortable-appearing young man  
 ___ systolic murmur best auscultated to LSB.  
 chest: no crepitus. pain is mildly reproduced with palpation of 
lower sternum.  
 lungs: clear to auscultation  
 abd: soft, nontender. no epigastric tenderness.  
 skin: no rash, no stigmata of ivdu. skin is warm and sweaty  
 neuro: alert, oriented. no focal deficits  
 - Labs notable for: WBC 7.1, no bands, 17% monocytes, no 
atypicals, trop <0.01, D dimer 223, lactate 1.3, Cr 1.0, UA 80 
ketones, few bacteria, otherwise negative  
 
 - Imaging was notable for:  
 The lungs are well inflated and are clear without focal 
consolidation. There is no pulmonary edema, pneumothorax, or 
pleural effusion. Rounded calcification overlies the left lung 
laterally, likely a calcified granuloma. The cardiomediastinal 
silhouette and hilar contours appear normal.  
 - Patient was given:  
 ___ 19:29 PO Acetaminophen 1000 mg ___  
 ___ 20:42 IVF NS ( 1000 mL ordered) ___  
 Upon arrival to the floor, patient reports that he feels a 
little better now. He corroborates the above history. He denies 
weight loss, fatigue, new rashes or joint pains, shortness of 
breath, dysuria. He reports that he had abdominal pain earlier 
today associated with his episode of emesis.
 
Past Medical History:
GERD  
 
Social History:
___
Family History:
Denies family history of heart or lung problems, diabetes, 
cancer.  
 
Physical Exam:
ADMISSION: 
Vital Signs: afebrile, BP 120/80s, HR ___, RR 16, 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, systolic murmur best 
appreciated at ___. No chest pain with palpation.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. No rashes, splinter hemorrhages, joint effusions. No 
spinal tenderness.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred. 

DISCHARGE: 
VS: 98.4 120/80 88 18 96% on RA
General: Alert, oriented, no acute distress  
CV: Regular rate and rhythm. Normal S1+S2, systolic murmur best 
appreciated at ___. No chest pain with palpation.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, no clubbing, cyanosis or edema. No 
rashes, splinter hemorrhages, joint effusions. No spinal 
tenderness.  
Neuro: Grossly intact
 
Pertinent Results:
ADMISSION: 
___ 06:04PM BLOOD WBC-7.1 RBC-4.88 Hgb-14.3 Hct-41.1 MCV-84 
MCH-29.3 MCHC-34.8 RDW-12.4 RDWSD-37.7 Plt ___
___ 06:04PM BLOOD Neuts-72.5* Lymphs-8.9* Monos-17.3* 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-5.11 AbsLymp-0.63* 
AbsMono-1.22* AbsEos-0.02* AbsBaso-0.03
___ 06:04PM BLOOD Glucose-105* UreaN-13 Creat-1.0 Na-138 
K-3.8 Cl-100 HCO3-23 AnGap-19
___ 07:50AM BLOOD ALT-20 AST-23 LD(LDH)-178 AlkPhos-38* 
TotBili-0.4
___ 06:04PM BLOOD cTropnT-<0.01
___ 07:50AM BLOOD Albumin-4.6 Calcium-9.5 Phos-3.0 Mg-1.9
___ 06:04PM BLOOD D-Dimer-233
___ 06:04PM BLOOD CRP-13.6*
___ 06:04PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:13PM BLOOD Lactate-1.3

DISCHARGE: 
___ 06:50AM BLOOD WBC-3.8* RBC-5.26 Hgb-15.2 Hct-44.9 
MCV-85 MCH-28.9 MCHC-33.9 RDW-12.5 RDWSD-39.1 Plt ___
___ 06:50AM BLOOD Neuts-46.1 ___ Monos-8.0 Eos-0.0* 
Baso-0.3 AbsNeut-1.73# AbsLymp-1.71 AbsMono-0.30 AbsEos-0.00* 
AbsBaso-0.01

STUDIES:

___ CXR:
No acute cardiopulmonary process

___ TTE:
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thickness, cavity size and regional/global systolic 
function are normal (LVEF >55%). Doppler parameters are most 
consistent with normal left ventricular diastolic function. 
There is no ventricular septal defect. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis. No masses or vegetations are 
seen on the aortic valve. Trace aortic regurgitation is seen. 
The mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. No mass or 
vegetation is seen on the mitral valve. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: Normal biventricular size and systolic function. 
Trace aortic regurgitation. No definitive 2D echo evidence of 
endocarditis.  
 
Brief Hospital Course:
___ year old male with no known history of medical problems with 
mild fever, chest pain, and cough admitted for chest pain in the 
setting of cleaning his apartment with chlorine. He ruled out 
for ACS, improved with cough regimen and had a normal 
echocardiogram. His chest pain and cough may have been a mild 
chlorine-related pneumonitis. He was discharged to followup with 
his PCP. 

#Chest pain: 
#Fever:
Most likely chlorine-related pneumonitis versus viral syndrome 
with costochondritis. No EKG changes and troponin negative. No 
risk factors for endocarditis and clinically not consistent with 
viral myocarditis. Lastly, in this young male with exertional 
CP, unclear family history, and EKG with marked LVH, we 
considered possible HOCM. Echo was done with normal EF and no 
hypertrophy. He will follow with his PCP and was discharged home 
in good condition. 

#Cough: chemical irritation vs viral syndrome. He improved with 
symptomatic treatment and was discharged with benzonatate. 

#Monocytosis: 
Most likely reactive to viral infection. Improved prior to 
discharge. 

#Calcified granuloma: 
Incidental, patient denies a history of tuberculosis. Could have 
had fungal exposures given his history of working outside. 

# ETOH use: reports drinking 5 beers a night, however no 
withdrawal symptoms during admission. 

Transitional issues:
[] Will f/u with his PCP for additional workup of cough and 
atypical chest pain
[] Prescribed benzonatate for cough
[] Should have repeat CXR or CT scan as outpatient to ensure 
calcified granuloma stable

Code: Full
Next of Kin: ___ 
 Relationship: OTHER 
 Phone: ___ 
 
Discharge Medications:
1.  Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*21 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Atypical chest pain, fever

Secondary: GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to ___ with chest pain and a cough. This was not 
related to an issues with your heart and your condition 
improved. Please follow with your PCP. 

It was a pleasure taking care of you, best of luck. 
Your ___ medical team
 
Followup Instructions:
___